C1 (net56 net72) C=6.8E-11
T2 (net16 net30 net30 0) pfet L=4.67E-6 W=6.87E-6
R3 ( net1 net19)  R=3.2E6
T4 ( net19 net19 net18 vdd!)  pfet  L=1.67E-6 W=8.88E-6
T5 ( net18 net47 vdd! vdd!)  pfet  L=1.67E-6 W=8.88E-6
T6 ( net47 net47 vdd! vdd!)  pfet  L=1.67E-6 W=8.88E-6
T7 ( net5 net19 net47 vdd!)  pfet  L=1.67E-6 W=8.88E-6
T8 (net38 net115 net115 0) nfet L=4.79E-6 W=8.86E-6
T9 ( net57 net57 0 0)  nfet  L=7.70E-6 W=6.55E-6
T10 ( net74 net57 0 0)  nfet  L=7.70E-6 W=6.55E-6
R11 ( net74 net3)  R=3.7E5
C12 (net16 net116) C=9.4E-10
T13 (net102 net45 net45 0) nfet L=0.27E-6 W=2.33E-6
R14 (net117 net82) R=3.4E6
T15 (net70 net29 net29 0) pfet L=6.29E-6 W=0.48E-6
T16 (net8 net52 net52 0) nfet L=6.67E-6 W=1.71E-6
T17 (net81 vdd! vdd! 0) pfet L=3.52E-6 W=0.63E-6
T18 (net36 net57 net57 0) pfet L=3.32E-6 W=4.26E-6
R19 (net82 net116) R=0.2E5
T20 (net24 net60 net60 0) nfet L=6.99E-6 W=3.50E-6
T21 (net89 net93 net93 0) pfet L=7.56E-6 W=3.22E-6
T22 (net48 net51 net51 0) pfet L=7.74E-6 W=5.41E-6
T23 (0 net60 net60 0) pfet L=0.36E-6 W=5.48E-6
C24 (net25 net101) C=3.4E-6
T25 (net80 net7 net7 0) pfet L=4.17E-6 W=9.35E-6
R26 (net79 net73) R=4.1E3
C27 (net80 vdd!) C=7.0E-9
T28 (net111 net116 net116 0) pfet L=4.80E-6 W=2.72E-6
C29 (net85 net16) C=4.5E-9
T30 (net103 net20 net20 0) nfet L=9.56E-6 W=6.87E-6
T31 (net101 net2 net2 0) pfet L=6.95E-6 W=1.51E-6
R32 (net101 net35) R=4.7E3
R33 (net13 net68) R=5.9E5
T34 (net25 vdd! vdd! 0) pfet L=0.47E-6 W=9.18E-6
T35 (net24 net80 net80 0) pfet L=6.70E-6 W=4.22E-6
T36 (vdd! net8 net8 0) nfet L=6.51E-6 W=5.02E-6
T37 (net8 net67 net67 0) pfet L=5.04E-6 W=0.16E-6
C38 (net57 net104) C=4.1E-8
R39 (net44 net8) R=8.6E4
C40 (net21 net113) C=7.1E-9
T41 (net12 net118 net118 0) nfet L=5.83E-6 W=1.03E-6
C42 (net75 net26) C=0.2E-5
T43 (net97 net106 net106 0) pfet L=5.79E-6 W=3.41E-6
T44 (net51 net34 net34 0) nfet L=6.00E-6 W=1.97E-6
T45 (net96 net56 net56 0) nfet L=0.96E-6 W=0.18E-6
R46 (net15 net22) R=7.3E5
C47 (vdd! net54) C=8.9E-9
T48 (vdd! net98 net98 0) pfet L=1.03E-6 W=8.08E-6
T49 (net94 vdd! vdd! 0) nfet L=6.83E-6 W=6.44E-6
T50 (net112 net26 net26 0) nfet L=7.40E-6 W=5.17E-6
C51 (net21 net40) C=8.5E-13
R52 (net51 net27) R=8.6E3
R53 (0 net65) R=9.9E1
T54 (0 net52 net52 0) nfet L=3.37E-6 W=7.22E-6
T55 (net107 net94 net94 0) pfet L=0.87E-6 W=1.78E-6
T56 (net35 net22 net22 0) nfet L=6.69E-6 W=5.32E-6
T57 (net45 net44 net44 0) pfet L=5.74E-6 W=9.60E-6
C58 (net66 net78) C=0.8E-14
T59 (net108 net69 net69 0) pfet L=5.72E-6 W=6.37E-6
C60 (net37 net44) C=1.9E-13
T61 (net39 net32 net32 0) nfet L=7.82E-6 W=3.79E-6
C62 (net110 net73) C=4.3E-8
T63 (0 net8 net8 0) nfet L=5.96E-6 W=7.88E-6
T64 (net63 net41 net41 0) pfet L=5.27E-6 W=8.17E-6
C65 (net35 net113) C=7.3E-9
T66 (net7 net15 net15 0) nfet L=2.02E-6 W=1.58E-6
T67 (vdd! net118 net118 0) nfet L=5.09E-6 W=7.50E-6
T68 (net5 net46 net46 0) nfet L=5.13E-6 W=6.59E-6
R69 (net115 net85) R=8.1E3
C70 (vdd! net41) C=5.3E-12
C71 (net48 0) C=2.9E-6
R72 (net90 net100) R=2.5E4
C73 (net49 vdd!) C=2.8E-8
T74 (net52 net11 net11 0) pfet L=4.25E-6 W=5.83E-6
C75 (net92 net7) C=8.1E-5
T76 (net118 net63 net63 0) pfet L=5.62E-6 W=4.75E-6
R77 (net60 vdd!) R=6.3E6
R78 (net97 net102) R=8.7E1
T79 (net76 net116 net116 0) nfet L=0.16E-6 W=4.29E-6
T80 (net68 net77 net77 0) pfet L=4.09E-6 W=9.44E-6
C81 (net21 net10) C=7.1E-7
R82 (net55 net90) R=4.2E6
R83 (net77 net93) R=5.6E0
R84 (net116 net112) R=4.7E4
R85 (net15 net51) R=5.2E6
T86 (net66 net20 net20 0) nfet L=5.03E-6 W=0.68E-6
C87 (net23 net66) C=9.8E-11
T88 (net36 net62 net62 0) nfet L=5.18E-6 W=0.54E-6
T89 (net8 net79 net79 0) nfet L=5.91E-6 W=5.57E-6
R90 (net1 net2) R=3.4E4
T91 (net12 net101 net101 0) pfet L=9.42E-6 W=1.24E-6
C92 (net84 net38) C=0.2E-9
T93 (net75 net13 net13 0) nfet L=0.51E-6 W=9.15E-6
R94 (net67 net69) R=5.3E4
R95 (net21 net27) R=2.5E3
C96 (net11 net41) C=3.8E-14
T97 (net99 net7 net7 0) nfet L=2.52E-6 W=2.76E-6
R98 (0 net93) R=9.2E1
C99 (net48 net61) C=1.2E-13
T100 (net82 net26 net26 0) nfet L=5.92E-6 W=1.14E-6
T101 (net34 net85 net85 0) nfet L=4.97E-6 W=6.04E-6
T102 (net108 net55 net55 0) pfet L=8.55E-6 W=9.34E-6
T103 (net83 net48 net48 0) pfet L=2.83E-6 W=9.07E-6
T104 (0 net115 net115 0) nfet L=8.75E-6 W=3.49E-6
T105 (0 0 0 0) nfet L=3.53E-6 W=9.48E-6
C106 (net53 net64) C=1.9E-6
T107 (net111 net100 net100 0) pfet L=4.06E-6 W=2.15E-6
C108 (net35 vdd!) C=9.5E-12
T109 (net99 net101 net101 0) pfet L=5.83E-6 W=2.35E-6
R110 (net8 net72) R=2.8E4
T111 (net55 net73 net73 0) pfet L=6.25E-6 W=7.87E-6
C112 (vdd! net78) C=3.3E-12
R113 (net86 net91) R=2.0E1
T114 (net31 net75 net75 0) nfet L=0.52E-6 W=2.24E-6
C115 (0 net69) C=6.3E-9
T116 (net98 net41 net41 0) nfet L=6.16E-6 W=9.93E-6
C117 (net89 net63) C=5.1E-10
T118 (net49 net79 net79 0) nfet L=7.19E-6 W=3.52E-6
R119 (vdd! net27) R=6.7E1
T120 (net69 0 0 0) pfet L=6.67E-6 W=9.71E-6
T121 (net12 net102 net102 0) pfet L=7.27E-6 W=2.65E-6
R122 (net6 net113) R=4.1E5
T123 (net46 net26 net26 0) nfet L=4.11E-6 W=0.27E-6
T124 (net103 net71 net71 0) pfet L=9.04E-6 W=3.60E-6
R125 (net85 net95) R=8.4E4
T126 (net26 net94 net94 0) nfet L=4.08E-6 W=9.37E-6
T127 (net91 net22 net22 0) pfet L=8.27E-6 W=3.54E-6
C128 (net54 net62) C=5.8E-9
C129 (net53 net45) C=7.1E-14
T130 (net56 net65 net65 0) pfet L=3.24E-6 W=3.35E-6
T131 (net53 net75 net75 0) pfet L=8.37E-6 W=3.71E-6
R132 (net98 net79) R=4.9E0
T133 (net70 net87 net87 0) pfet L=6.28E-6 W=6.44E-6
C134 (net37 net97) C=5.9E-8
R135 (net43 net35) R=8.0E5
C136 (net84 net65) C=5.7E-12
T137 (net41 net10 net10 0) nfet L=1.72E-6 W=8.04E-6
R138 (net59 net84) R=1.7E3
T139 (net80 net102 net102 0) nfet L=7.14E-6 W=1.41E-6
T140 (net101 0 0 0) nfet L=6.76E-6 W=7.07E-6
R141 (net35 net24) R=9.5E3
C142 (net116 net79) C=6.3E-5
C143 (net24 net48) C=3.6E-10
R144 (net88 net30) R=5.5E3
C145 (net24 net110) C=0.5E-12
C146 (net91 net81) C=0.6E-14
R147 (net94 net21) R=7.7E3
R148 (net46 net88) R=3.9E1
C149 (net13 net36) C=7.2E-7
C150 (net45 vdd!) C=4.3E-12
T151 (vdd! net42 net42 0) nfet L=1.62E-6 W=3.08E-6
T152 (net15 net49 net49 0) nfet L=1.18E-6 W=0.64E-6
C153 (net24 vdd!) C=6.2E-6
R154 (net36 net93) R=7.6E3
T155 (net82 net70 net70 0) pfet L=6.59E-6 W=3.45E-6
T156 (net89 net16 net16 0) nfet L=9.42E-6 W=7.27E-6
T157 (vdd! net92 net92 0) pfet L=6.80E-6 W=4.70E-6
R158 (net44 net79) R=3.3E4
C159 (net105 net58) C=3.0E-8
T160 (net22 net42 net42 0) pfet L=2.89E-6 W=5.68E-6
T161 (net68 net61 net61 0) pfet L=4.67E-6 W=9.21E-6
C162 (net10 net7) C=8.8E-8
C163 (net113 net27) C=3.6E-9
R164 (net99 net45) R=8.7E6
C165 (net23 net99) C=6.5E-10
C166 (net99 net76) C=0.5E-7
C167 (net60 net44) C=0.3E-9
C168 (net117 net76) C=2.0E-10
T169 (net60 net86 net86 0) nfet L=2.64E-6 W=0.35E-6
T170 (net66 vdd! vdd! 0) nfet L=1.85E-6 W=2.65E-6
R171 (net104 net95) R=0.7E6
R172 (net90 net3) R=2.2E2
T173 (net102 net57 net57 0) pfet L=8.96E-6 W=1.28E-6
R174 (net38 net31) R=9.5E4
T175 (net22 net92 net92 0) pfet L=0.73E-6 W=7.59E-6
R176 (net29 net48) R=9.4E4
C177 (net93 0) C=2.9E-12
R178 (net97 net49) R=1.9E4
C179 (net1 0) C=2.3E-5
T180 (net14 0 0 0) pfet L=2.86E-6 W=5.48E-6
R181 (net99 net2) R=9.4E6
R182 (net43 0) R=1.4E4
T183 (net101 net105 net105 0) nfet L=5.84E-6 W=1.00E-6
R184 (net45 net49) R=3.9E0
C185 (net61 net5) C=7.3E-13
R186 (vdd! net23) R=8.9E3
R187 (vdd! net27) R=9.8E3
T188 (net82 net114 net114 0) pfet L=6.34E-6 W=5.82E-6
T189 (net114 net63 net63 0) nfet L=6.60E-6 W=2.86E-6

